US09382216B2
Step-1: 4-(tert-Butoxycarbonyl)morpholine-2-carboxylic acid
Saturated aqueous NaHCO3 (15 mL) was added to a stirred solution of tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate (1.09 g, 5.0 mmol) (heterocycles, (1993), 35, 105 and WO 2007/06715) in acetone (50 mL) at 0° C. Solid NaBr (0.1 g, 1 mmol) and TEMPO (0.015 g, 0.1 mmol) were added. trichloroisocyanuric acid (2.32 g, 10.0 mmol) was then added for 20 min at 0° C. After addition the reaction mixture was allowed to rise to RT and stirred overnight. 2-Propanol (3 mL) was added and the resulting solution was stirred at RT for 30 min, filtered through a pad of Celite, concentrated under vacuum, and treated with saturated aqueous Na2CO3 solution (15 mL) The aqueous solution was extracted with EtOAc (5 mL), acidified with 6N HCl and extracted with EtOAc (5×10 mL). The combined organic layers were dried over Na2SO4 and the solvent was concentrated to give the title compound as a white solid (1.1 g crude) (M−H) 230.

reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
reactant | tert-butyl 2-(hydroxymethyl)morpholine-4-carboxylate | 5.0 mmol, 1.09 g | OCC1CN(CCO1)C(=O)OC(C)(C)C | C10H19NO4
reactant | NaBr | 1 mmol, 0.1 g | [Na+].[Br-]
reactant | trichloroisocyanuric acid | 10.0 mmol, 2.32 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | acetone | 50 mL | CC(=O)C | C3H6O
catalyst | TEMPO | 0.1 mmol, 0.015 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | 2-Propanol | 3 mL | CC(C)O | C3H8O
product | 4-(tert-Butoxycarbonyl)morpholine-2-carboxylic acid | 1.1 g | C(C)(C)(C)OC(=O)N1CC(OCC1)C(=O)O | C10H17NO5
